US07829585B2
6-Cyclopropylmethoxy-1H-indole-2-carbaldehyde
To a dichloromethane (5 mL) solution of (6-cyclopropylmethoxy-1H-indol-2-yl)-methanol (197 mg, 907 μmol) described in Production Example 73-1-3 was added manganese dioxide (789 mg, 9.07 mmol) at room temperature, which was stirred at room temperature for 17 hours. The reaction solution was filtered followed by concentrating the filtrate under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (144 mg, 74%) as a pale brown solid.

reactant | (6-cyclopropylmethoxy-1H-indol-2-yl)-methanol | 907 μmol, 197 mg | C1(CC1)COC1=CC=C2C=C(NC2=C1)CO | C13H15NO2
catalyst | manganese dioxide | 9.07 mmol, 789 mg | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 6-Cyclopropylmethoxy-1H-indole-2-carbaldehyde | 144 mg, 74% | C1(CC1)COC1=CC=C2C=C(NC2=C1)C=O | C13H13NO2
